US06251905B1
v) Synthesis of 4,5-dihydro-2-phenyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene.dihydrochloride
In a solution consisting of 5 ml of ethanol and 0.1 ml of 12N HCl was dissolved 254 mg (0.56 mmol) of 4,5-dihydro-2-phenyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene. The solvent was distilled under reduced pressure to give 295 mg of the desired compound (100%, white amorphous).

reactant | HCl | 12N, 0.1 ml | Cl | ClH
reactant | 4,5-dihydro-2-phenyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene | 0.56 mmol, 254 mg | C1(=CC=CC=C1)C=1N=C2C=CC=C3CN(CC1N23)CCCCCNS(=O)(=O)C(F)(F)F | C21H23F3N4O2S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4,5-dihydro-2-phenyl-4-[5-(trifluoromethanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene.dihydrochloride | 295 mg, 100% | Cl.Cl.C1(=CC=CC=C1)C=1N=C2C=CC=C3CN(CC1N23)CCCCCNS(=O)(=O)C(F)(F)F | InChI=1S/C21H23F3N4O2S.2ClH/c22-21(23,24)31(29,30)25-12-5-2-6-13-27-14-17-10-7-11-19-26-20(18(15-27)28(17)19)16-8-3-1-4-9-16;;/h1,3-4,7-11,25H,2,5-6,12-15H2;2*1H
